US04618683
2-Cyano-3-(6-bromo-2,3-dimethoxyphenyl)-propionic acid
A solution of α-cyano-6-bromo-2,3-dimethoxycinnamic acid (41.7 g, 0.13 mole), and absolute EtOH (1 L) was stirred under N2 at 0° as NaBH4 (42 g. 1.11 mole) was added portionwise. The reaction mixture was stirred at room temperature for 0.5 hr., and at reflux for 0.75 hr. After cooling to room temperature, EtOH was removed (in-vacuo). Water was added to the residue, followed by 10% HCl until acidic. The solution was extracted with CH2Cl2. The combined organic layers were washed with water, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated to yield 39.25 g cream colored solid; mp 120°-2°; M+ 313.

reactant | α-cyano-6-bromo-2,3-dimethoxycinnamic acid | 0.13 mole, 41.7 g | C(#N)C(C(=O)O)=CC1=C(C(=CC=C1Br)OC)OC | C12H10BrNO4
reactant | NaBH4 | 1.11 mole, 42 g | [BH4-].[Na+]
solvent | EtOH | 1 L | CCO | C2H6O
product | 2-Cyano-3-(6-bromo-2,3-dimethoxyphenyl)-propionic acid | C(#N)C(C(=O)O)CC1=C(C(=CC=C1Br)OC)OC | C12H12BrNO4
